US04386031
(c) 8-{3.4.5-Trimethoxy-N-[3-(trifluoromethyl)-phenyl]-benzamido}-caprylic acid
As described in example 1(b), the reaction is carried out with 8.6 g (16.8 mmol) of 8-{3.4.5-trimethoxy-N-[3-(trifluoromethyl)-phenyl]-benzamido}-caprylic acid methyl ester, 0.96 g (24 mmol) of sodium hydroxide and 100 cc. of methanol. Reaction time: 24 hours, reaction temperature: 25° C. The crude product is further purified chromatographically on silicic acid gel using chloroform as eluant.

reactant | 8-{3.4.5-trimethoxy-N-[3-(trifluoromethyl)-phenyl]-benzamido}-caprylic acid methyl ester | 16.8 mmol, 8.6 g | COC(CCCCCCCN(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC(=CC=C1)C(F)(F)F)=O | C26H32F3NO6
reactant | sodium hydroxide | 24 mmol, 0.96 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 8-{3.4.5-Trimethoxy-N-[3-(trifluoromethyl)-phenyl]-benzamido}-caprylic acid | COC=1C=C(C(=O)N(C2=CC(=CC=C2)C(F)(F)F)CCCCCCCC(=O)O)C=C(C1OC)OC | C25H30F3NO6
